M1 (VOUT1 VOUT2 VDD VDD) pmos4
M0 (VOUT2 VOUT1 VDD VDD) pmos4
L1 (net18 VOUT1) inductor
L0 (VOUT2 net18) inductor
? Missing component
C0 (VCONT1 VOUT2) capacitor
M4 (net9 VB1 VSS VSS) nmos4
M3 (VOUT1 VOUT2 net9 VSS) nmos4
M2 (VOUT2 VOUT1 net9 VSS) nmos4
